US05061626
A mixture of cyclohexanone (52 ml, 0.5 mol), trimethylorthoformate (66 ml, 0.6 mol), methanol (51 ml, 1.26 mol) and concentrated H2SO4 (1 drop) was refluxed for 18 hours. A solution sodium methoxide in methanol was added until the mi was neutral, and the mixture was fractionally distilled. 1,1-Dimethoxycyclohexane was obtained from the fraction b.p. 162°-164° C. (50.6 g, 70%).

reactant | cyclohexanone | 0.5 mol, 52 ml | C1(CCCCC1)=O | C6H10O
reactant | trimethylorthoformate | 0.6 mol, 66 ml | COC(OC)OC | C4H10O3
reactant | sodium methoxide | C[O-].[Na+]
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
solvent | methanol | CO | CH4O
solvent | methanol | 1.26 mol, 51 ml | CO | CH4O
product | 1,1-Dimethoxycyclohexane | COC1(CCCCC1)OC | C8H16O2
